US05908840
2-Iodo-11-oxo-11-H-Pyrido[2,1-b]quinazoline-6-carboxylic acid
A solution of 2-amino-5-iodobenzoic acid (25 g; 95.0 mmol), 2-chloronicotinic acid (14.97 g; 95.0 mmol), concentrated hydrochloric acid (3.17 ml; 38 mmol), and ethanol (150 ml) was heated at reflux for 18 hours, then cooled to 0° C. The precipitate was collected by filtration and the filter cake was washed with fresh ethanol (200 ml). The filter cake was dried in vacuo over phosphorous pentoxide to provide product as a yellow solid: 12.0 g.

reactant | 2-amino-5-iodobenzoic acid | 95.0 mmol, 25 g | NC1=C(C(=O)O)C=C(C=C1)I | C7H6INO2
reactant | 2-chloronicotinic acid | 95.0 mmol, 14.97 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | hydrochloric acid | 38 mmol, 3.17 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-Iodo-11-oxo-11-H-Pyrido[2,1-b]quinazoline-6-carboxylic acid | IC=1C=C2C(N3C(=NC2=CC1)C(=CC=C3)C(=O)O)=O | C13H7IN2O3
